US04892576
(c) 5-Acetamido-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide
23.63 g (177.5 mmol) of 97% 2,6-difluoroaniline and 1.48 g N,N-dimethyl-4-aminopyridine was dissolved in 225 ml pyridine and 25.0 g (88.75 mmol) 5-acetamido-4-methoxycarbonylpyrazole-3-sulphonyl chloride added portionwise. The mixture was stirred for 48 hours at 25° C. The pyridine was distilled and the residue dissolved in 510 ml methylene chloride washed twice with 370 ml 5N hydrochloric acid and twice with 370 ml water, dried over magnesium sulphate and concentrated. The residue was triturated with ether, the product suction filtered, washed with ether and dried.

reactant | 2,6-difluoroaniline | 177.5 mmol, 23.63 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | 5-acetamido-4-methoxycarbonylpyrazole-3-sulphonyl chloride | 88.75 mmol, 25.0 g | C(C)(=O)NC1=C(C(=NN1)S(=O)(=O)Cl)C(=O)OC | C7H8ClN3O5S
catalyst | N,N-dimethyl-4-aminopyridine | 1.48 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | pyridine | 225 ml | N1=CC=CC=C1 | C5H5N
product | 5-Acetamido-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide | C(C)(=O)NC1=C(C(=NN1)S(=O)(=O)NC1=C(C=CC=C1F)F)C(=O)OC | C13H12F2N4O5S
